US06495546B1
Under nitrogen, to a solution of (2R)-1-tosyloxy-2,3-epoxypropane (3.0 g) in tetrahydrofuran (30 ml) were added N,N-diisopropylethylamine (2.5 ml) and thiophenol (1.3 ml) at 5° C., and the mixture was stirred at room temperature for 12 hours. The resulting mixture was poured into water and extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogencarbonate and brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1 to 3:1) to give (2S)-3-phenylthio-1-tosyloxy-2-propanol (3.9 g).

reactant | (2R)-1-tosyloxy-2,3-epoxypropane | 3.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@H]1CO1 | C10H12O4S
reactant | N,N-diisopropylethylamine | 2.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thiophenol | 1.3 ml | C1(=CC=CC=C1)S | C6H6S
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (2S)-3-phenylthio-1-tosyloxy-2-propanol | 3.9 g | C1(=CC=CC=C1)SC[C@H](COS(=O)(=O)C1=CC=C(C)C=C1)O | C16H18O4S2
